US07049314B2
3-(3-oxocyclopentyl)-1H-indole-5-carbonitrile (11.21 g, 0.05 mMol) was dissolved in anhydrous DMSO (30 mL) and added dropwise to a suspension of sodium hydride (2.25 g, 0.055 mMol, 60% in mineral oil) in dry DMSO (50 mL) under nitrogen at 25–30° C. The reaction was heated to 40° C. for 15 min, then cooled to room temperature. Methyl iodide (3.42 mL, 0.055 mMol) was added dropwise, maintaining reaction temperature at 25–30° C. with an external ice water bath. After stirring for 2 h at room temperature, the reaction was poured into 1 L ice water. The tan solid was filtered, washed with H2O, dissolved in ethyl acetate (750 mL), extracted with H2O (500 mL) and brine (500 mL), and dried over sodium sulfate. The ethyl acetate extract was concentrated in vacuo and the product was purified by chromatography on silica gel with a 10% step gradient of 25–45% ethyl acetate in hexane. Pure product fractions were concentrated in vacuo and dried under high vacuum to give 1-methyl-3-(3-oxo-cyclopentyl)-1H-indole-5-carbonitrile (8.52 g, 72%). 1H NMR (500 MHz, CDCl3) δ 7.95 (1 H, s), 7.46 (1 H, dd, J=8.54, 1.22), 7.34 (1 H, d, J=8.54), 6.94 (1 H, s), 3.78 (3 H, s), 3.69 (1 H, m), 2.74 (1 H, dd, J=7.63, 18.01 Hz), 2.53 (1 H, m), 2.38 (3 H, m), 2.06 (1 H, m). MS m/e 239.3 (M+H)+. Anal. calcd. for C15H14N2O: C, 75.60; H, 5.92; N, 11.75. Found: C, 75.31; H, 5.86; N, 11.55. IR (KBr) 2219, 1728 cm−1.

reactant | 3-(3-oxocyclopentyl)-1H-indole-5-carbonitrile | 0.05 mMol, 11.21 g | O=C1CC(CC1)C1=CNC2=CC=C(C=C12)C#N | C14H12N2O
reactant | sodium hydride | 0.055 mMol, 2.25 g | [H-].[Na+]
reactant | DMSO | 30 mL | CS(=O)C | C2H6OS
reactant | DMSO | 50 mL | CS(=O)C | C2H6OS
catalyst | Methyl iodide | 0.055 mMol, 3.42 mL | CI | CH3I
product | 1-methyl-3-(3-oxo-cyclopentyl)-1H-indole-5-carbonitrile | 8.52 g, 72% | CN1C=C(C2=CC(=CC=C12)C#N)C1CC(CC1)=O | C15H14N2O
